US06680317B2
a) 4(2-tert-Butyl-6-chloro-benzooxazole-7-sulfonyl)-piperazine-1-carboxylic Acid tert-Butyl Ester
Following the general procedure for the synthesis of sulfonylamides outlined in example 51, 2-tert-butyl-6-chlorbenzooxazole-7-sulfonyl chloride (5.0 g, 16.2 mmol), triethylamine (2.4 mL, 17.2 mmol), and piperazine-carboxylic acid tert-butyl ester (3.62 g, 19.4 mmol) were reacted in THF (50 mL) to afford the title compound (5.44 g, 67%). LCMS m/z 402(M−H)+ (desired -Boc).

reactant | 2-tert-butyl-6-chlorbenzooxazole-7-sulfonyl chloride | 16.2 mmol, 5.0 g | C(C)(C)(C)C=1OC2=C(N1)C=CC(=C2S(=O)(=O)Cl)Cl | C11H11Cl2NO3S
reactant | triethylamine | 17.2 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | piperazine-carboxylic acid tert-butyl ester | 19.4 mmol, 3.62 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4(2-tert-Butyl-6-chloro-benzooxazole-7-sulfonyl)-piperazine-1-carboxylic Acid tert-Butyl Ester | 5.44 g, 67% | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)C1=C(C=CC=2N=C(OC21)C(C)(C)C)Cl | C20H28ClN3O5S
